US06180635B2
b) 1,2,3,4-Tetrahydro-N-(2-hydroxyethyl)-3-methyl-1-(2-methylpropyl)-6-(1-naphthalenylmethyl)-2,4-dioxothieno[2,3-d]pyrimidine-5-sulfonamide
N-Chlorosuccinimde (52 mg) was added to a rapidly stirred suspension of lithium 1,2,3,4-tetrahydro-3-methyl-1-(2-methylpropyl)-6-(1-naphthalenylmethyl)-2,4-dioxothieno[2,3-d]pyrimidine-5-sulfinate (200 mg) in dichloromethane (8 ml) and 0.22M hydrochloric acid (9 ml). After 1 hour, further N-chlorosuccinimide (26 mg) was added. After 1 hour, water (30 ml) and dichloromethane (30 ml) were added and the phases were separated. The aqueous phase was extracted with dichloromethane (2×10 ml). The combined organic extracts were treated with ethanolamine (0.071 ml). After 30 minutes, the solution was washed with saturated sodium hydrogen carbonate solution, dried over anhydrous magnesium sulfate, filtered and evaporated under reduced pressure. The residue was purified by column chromatography over silica, eluting with ether to give the title compound (120 mg) as a foam.

reactant | lithium 1,2,3,4-tetrahydro-3-methyl-1-(2-methylpropyl)-6-(1-naphthalenylmethyl)-2,4-dioxothieno[2,3-d]pyrimidine-5-sulfinate | 200 mg | CN1C(N(C2=C(C1=O)C(=C(S2)CC2=CC=CC1=CC=CC=C21)S(=O)[O-])CC(C)C)=O.[Li+]
reactant | N-chlorosuccinimide | 26 mg | ClN1C(CCC1=O)=O | C4H4ClNO2
reactant | water | 30 ml | O | H2O
solvent | dichloromethane | 8 ml | ClCCl | CH2Cl2
solvent | hydrochloric acid | 0.22M, 9 ml | Cl | ClH
solvent | dichloromethane | 30 ml | ClCCl | CH2Cl2
product | 1,2,3,4-Tetrahydro-N-(2-hydroxyethyl)-3-methyl-1-(2-methylpropyl)-6-(1-naphthalenylmethyl)-2,4-dioxothieno[2,3-d]pyrimidine-5-sulfonamide | 120 mg | OCCNS(=O)(=O)C1=C(SC=2N(C(N(C(C21)=O)C)=O)CC(C)C)CC2=CC=CC1=CC=CC=C21 | C24H27N3O5S2
